* E:\PowerDistribution\HV_Board_Rev3\HV_Board_DC_Converter\LTSpice_Testing\5V_Buck.asc
XU1 N002 MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 N008 N001 N006 NC_07 N007 N010 N012 N005 N005 N001 N011 LT8315
V1 N002 0 300
C1 N003 N006 10p
R1 N002 N003 4.99kK
C2 N001 N005 10µ
C3 N008 N005 10µ
R2 N010 N009 22.1K
C4 N009 N005 330n
C5 NC_08 NC_09 0.1 V=25 Irms=0 Rser=0.025 Lser=800p
R3 N011 N005 196m
D1 N004 N001 CMDSH2-3
R4 N007 N005 5K
R5 N004 N007 15.4K
D2 Vout N004 RR268MM-600
D3 0 N005 RFN10BM6S
L1 N005 Vout 1.1m Ipk=0.1 Rser=24.8 Rpar=94200 Cpar=0
C6 Vout 0 44µ
D4 0 Vout UDZV6_2B
R6 N012 N005 49K
.model D D
.lib C:\Users\Kimia\OneDrive - Simon Fraser University (1sfu)\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 350m startup
.lib LT8315.sub
.backanno
.end
