* E:\PowerDistribution\HV_Board_Rev3\HV_Board_DC_Converter\LTSpice_Testing\5V_Buck.asc
XU1 N002 MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 N008 N001 N006 NC_07 N007 N010 N012 N005 N005 N001 N011 LT8315
V1 N002 0 380
C1 N003 N006 10p
R1 N002 N003 4.99kK
C2 N001 N005 10µ
C3 N008 N005 10µ
R2 N010 N009 22.1K
C4 N009 N005 330n
R3 N011 N005 196m
D1 N004 N001 CMDSH2-3
R4 N007 N005 5K
R5 N004 N007 15.5K
D2 Vout N004 RR268MM-600
D3 0 N005 RFN10BM6S
L1 N005 Vout 1.1m Ipk=0.57 Rser=1.64088 Rpar=103620 Cpar=0 mfg="Coilcraft" pn="SPT44L-115"
D4 0 Vout MYD
R6 N012 N005 49K
R7 Vout 0 50
C7 N002 0 3.3µ V=450 Irms=40m Rser=0.98034 Lser=4.01406n mfg="Würth Elektronik" pn="865061457001 WCAP-ASLL 10x10,5" type="Al electrolytic"
C8 0 N002 0.47µ V=630 Irms=0 Rser=0.0333146 Lser=13.2945n mfg="Würth Elektronik" pn="890303326009CS WCAP-FTBP 22.5 x 26 x 18 x 9" type="Box"
D5 NC_08 NC_09 D
C9 Vout 0 0.2m V=10 Irms=0 Rser=0 Lser=0
C5 Vout 0 0.2m V=10 Irms=0 Rser=0 Lser=0
C6 NC_10 NC_11 0.1µ V=25 Irms=728m Rser=0.14361 Lser=0 mfg="KEMET" pn="C0603C104K3RAC" type="X7R"
.model D D
.lib C:\Users\Kimia\OneDrive - Simon Fraser University (1sfu)\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 350m startup
.model MYD ako: 1N750 Bv=5
.lib LT8315.sub
.backanno
.end
